US04111931
8-Chloro-4,6-dihydro-6-phenyl-5-oxo-N,N-dimethyl-5H-imidazo [1,5-a][1,5]benzodiazepine-3-carboxamide
As described in previous example, 8-chloro-4,6-dihydro-6-phenyl-5-oxo-5H-imidazo[1,5-a][1,5]benzodiazepine-3-carboxylic acid, methyl ester was converted to the dimethylamide, mp. 255°-257°.

reactant | 8-chloro-4,6-dihydro-6-phenyl-5-oxo-5H-imidazo[1,5-a][1,5]benzodiazepine-3-carboxylic acid, methyl ester | ClC=1C=CC2=C(N(C(CC=3N2C=NC3C(=O)OC)=O)C3=CC=CC=C3)C1 | C19H14ClN3O3
reactant | dimethylamide | C[N-]C
product | 8-Chloro-4,6-dihydro-6-phenyl-5-oxo-N,N-dimethyl-5H-imidazo [1,5-a][1,5]benzodiazepine-3-carboxamide | ClC=1C=CC2=C(N(C(CC=3N2C=NC3C(=O)N(C)C)=O)C3=CC=CC=C3)C1 | C20H17ClN4O2
